US09216173B2
To a solution of tert-butyl (1-azido-3-ethoxypropan-2-yl)carbamate (1.3 g, 5.4 mmol) in methanol (40 mL) was added palladium on carbon (0.13 g, 10% w/w). The mixture was stirred under a hydrogen (15 psi) atmosphere at room temperature. After 14 hours, the reaction mixture was filtered and concentrated under reduced pressure to give tert-butyl (1-amino-3-ethoxypropan-2-yl)carbamate. MS ESI calc'd. for C10H23N2O3 [M+H]+ 219. found 219. 1H NMR (400 MHz, CD3OD) δ 3.93 (d, J=6.0 Hz, 1H), 3.59-3.51 (m, 3H), 3.45 (dd, J=9.7 Hz, 6.0 Hz, 1H), 3.18 (dd, J=12.8 Hz, 4.4 Hz, 1H), 2.97 (dd, J=12.8 Hz, 8.8 Hz, 1H), 1.48 (s, 9H), 1.22 (t, J=7.0 Hz, 3H).

reactant | tert-butyl (1-azido-3-ethoxypropan-2-yl)carbamate | 5.4 mmol, 1.3 g | N(=[N+]=[N-])CC(COCC)NC(OC(C)(C)C)=O | C10H20N4O3
solvent | methanol | 40 mL | CO | CH4O
catalyst | palladium on carbon | 0.13 g | [Pd] | Pd
product | tert-butyl (1-amino-3-ethoxypropan-2-yl)carbamate | NCC(COCC)NC(OC(C)(C)C)=O | C10H22N2O3
